US05962474
5-(fur-2-oyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 0.868 gm (15.5 mMol) potassium hydroxide in 8 mL methanol were added 1.0 gm (4.42 mMol) 5-(2-furoyl)amino-1H-indole and 0.774 mL 1-ethyl-4-piperidone and the solution was stirred at reflux for 18 hours. The reaction mixture was cooled to ambient and then diluted with ice/water. The resultant precipitate was collected and dried under vacuum. This solid was purified by radial chromatography (2 mm silica), eluting with a gradient of dichloromethane containing 5-7.5% methanol and 0.5-1.0% ammonium hydroxide. The product was then crystallized from ethyl acetate to give 0.715 gm (48.3%) of the title compound as a bright yellow powder.

reactant | potassium hydroxide | 15.5 mMol, 0.868 gm | [OH-].[K+]
reactant | 5-(2-furoyl)amino-1H-indole | 4.42 mMol, 1.0 gm | O1C(=CC=C1)C(=O)NC=1C=C2C=CNC2=CC1 | C13H10N2O2
reactant | 1-ethyl-4-piperidone | 0.774 mL | C(C)N1CCC(CC1)=O | C7H13NO
solvent | methanol | 8 mL | CO | CH4O
product | 5-(fur-2-oyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.715 gm, 48.3% | O1C(=CC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C19H19N3O2
